US08293912B2
Cisatracurium besylate is disclosed in U.S. Pat. No. 5,453,510 (hereinafter U.S. '510). U.S. '510 describes the formation of (R)-tetrahydropapaverine (compound IIA) from compound (II) which is converted into a mixture of R and S diastereoisomer salts with the chiral amino acid, N-acetyl-L-leucine, resulting in the formation of a mixture of 83% of the R and 17% of the S diastereoisomer. Crystallization of the mixture from acetone affords 97% (R)-tetrahydropapaverine-N-acetyl-L-leucinate and 3% (S)-tetrahydropapaverine-N-acetyl-L-leucinate which is converted into (R)-tetrahydropapaverine base. The (R)-tetrahydro-papaverine is subsequently reacted with 1,5-pentamethylene diacrylate followed by oxalic acid to afford the dioxalate salt of (1R,1′R)-2,2′-(3,11-dioxo-4,10-dioxatridecamethylene)-bis-(1,2,3,4-tetrahydro-6,7-dimethoxy-1-veratrylisoquinoline) (i.e., an isomer of compound IV). Conversion of the dioxalate salt into the free base, followed by treatment with methyl benzenesulfonate, affords an aqueous solution of (1R,1′R)-atracurium besylate. Lyophilization results in a pale yellow solid that includes a mixture of three isomers, namely, (1R-cis,1′R-cis); (1R-cis,1′R-trans); (1R-trans,1′R-trans), (hereinafter referred to as the “atracurium besylate mixture”), in a ratio of about 58:34:6 respectively. The atracurium besylate mixture is subjected to preparative HPLC column chromatography on silica using a mixture of dichloromethane, methanol and benzenesulfonic acid in the ratio of 4000:500:0.25 as the eluent. The fractions containing the required isomer are collected and washed with water. The dichloromethane solution is evaporated to dryness, the residue dissolved in water and the pH of the solution adjusted to 3.5-4.0 with an aqueous solution of benzenesulfonic acid. The aqueous solution is lyophilized to afford cisatracurium besylate possessing an isomeric purity of about 99%.

reactant | Cisatracurium besylate | C[N@@+]1(CCC=2C=C(C(=CC2[C@H]1CC=3C=CC(=C(C3)OC)OC)OC)OC)CCC(=O)OCCCCCOC(=O)CC[N@+]4(CCC=5C=C(C(=CC5[C@H]4CC=6C=CC(=C(C6)OC)OC)OC)OC)C.C=1C=CC(=CC1)S(=O)(=O)[O-].C=1C=CC(=CC1)S(=O)(=O)[O-]
reactant | N-acetyl-L-leucine | C(C)(=O)N[C@@H](CC(C)C)C(=O)O | C8H15NO3
product | (S)-tetrahydropapaverine N-acetyl-L-leucinate | 3% | COC1=C(C=C(C=C1)C[C@H]2C3=CC(=C(C=C3CC[NH2+]2)OC)OC)OC.C(C)(=O)N[C@@H](CC(C)C)C(=O)[O-] | InChI=1S/C20H25NO4.C8H15NO3/c1-22-17-6-5-13(10-18(17)23-2)9-16-15-12-20(25-4)19(24-3)11-14(15)7-8-21-16;1-5(2)4-7(8(11)12)9-6(3)10/h5-6,10-12,16,21H,7-9H2,1-4H3;5,7H,4H2,1-3H3,(H,9,10)(H,11,12)/t16-;7-/m00/s1
